US06215000B1
Baccatin III-isopropanol Complex
Baccatin III (100 mg, 0.17 mmol) was dissolved in dichloromethane (4 mL). Isopropanol was added (130 uL, 1000%), and the resulting solution was allowed to stir for 1 h. Hexane was added to the cloud point, and crystallization began. The baccatin III, 2-propanol complex (85 mg, 77%) was collected by filtration.

reactant | Baccatin III | 0.17 mmol, 100 mg | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C=5C=CC=CC5)(CO4)OC(=O)C)O)C)OC(=O)C | C31H38O11
reactant | Isopropanol | C(C)(C)O | C3H8O
reactant | Hexane | CCCCCC | C6H14
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | Baccatin III isopropanol | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C=5C=CC=CC5)(CO4)OC(=O)C)O)C)OC(=O)C.C(C)(C)O | InChI=1S/C31H38O11.C3H8O/c1-15-19(34)13-31(38)26(41-27(37)18-10-8-7-9-11-18)24-29(6,20(35)12-21-30(24,14-39-21)42-17(3)33)25(36)23(40-16(2)32)22(15)28(31,4)5;1-3(2)4/h7-11,19-21,23-24,26,34-35,38H,12-14H2,1-6H3;3-4H,1-2H3/t19-,20-,21+,23+,24-,26-,29+,30-,31+;/m0./s1
